US06271410B1
Preparation of Isopropyl Cyanoacetate
Cyanoacetic acid (85.5 g; 1.0 mol), isopropanol (80 g; 1.33 mol) and methanesulfonic acid (1.00 g; 0.01 mol) were introduced into a 500 ml flask. The mixture was slowly heated to a maximum of 105° C. while collecting distillates at 77-80° C. Additional isopropanol (220 g; 3.67 mol) was added to maintain the flask at 105-110° C. and the collection of distillates was continued at 77-80° C. After distilling off the unreacted isopropanol, the isopropyl cyanoacetate (bp 100° C./20 mm Hg) was collected as a clear liquid. The yield was 120 g (94.5% of theoretical and its purity was >99% (GC assay).

reactant | Cyanoacetic acid | 1.0 mol, 85.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | isopropanol | 1.33 mol, 80 g | C(C)(C)O | C3H8O
reactant | methanesulfonic acid | 0.01 mol, 1.00 g | CS(=O)(=O)O | CH4O3S
reactant | isopropanol | 3.67 mol, 220 g | C(C)(C)O | C3H8O
product | Isopropyl Cyanoacetate | C(#N)CC(=O)OC(C)C | C6H9NO2
